US04933355
2-o-Toluidinothiazol-4-ylmethanol
Following a procedure similar to that described in Preparation 15, the desired compound was prepared from 10 g of ethyl 2-o-toluidinothiazole-4-carboxylate, 2.9 g of lithium aluminum hydride and 200 ml of tetrahydrofuran. The resulting product was a brown oil having the following physical properties.

reactant | ethyl 2-o-toluidinothiazole-4-carboxylate | 10 g | C=1(C(=CC=CC1)NC=1SC=C(N1)C(=O)OCC)C | C13H14N2O2S
reactant | lithium aluminum hydride | 2.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-o-Toluidinothiazol-4-ylmethanol | C=1(C(=CC=CC1)NC=1SC=C(N1)CO)C | C11H12N2OS
